US07470710B2
Description 35: (RS)-2-[(Methoxy-methyl-carbamoyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
A solution of 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (Beckett et al, J. Med. Chem., 563,1969) (2.29 g, 10 mmol) in DMF (20 ml) was treated sequentially with N,N-diisopropylethylamine (4.0 ml), HATU (3.8 g, 10 mmol) and O,N-dimethyl-hydroxylamine.HCl (0.98 g, 10 mmol). The reaction mixture was stirred under argon at room temperature for 16 h. The volatiles were removed in vacuo and the residue was chromatographed (silica gel, diethyl ether) to afford the title compound as a white solid (2.60 g, 90%).

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2.29 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | N,N-diisopropylethylamine | 4.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 10 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | O,N-dimethyl-hydroxylamine | CONC | C2H7NO
reactant | HCl | 10 mmol, 0.98 g | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (RS)-2-[(Methoxy-methyl-carbamoyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.60 g, 90% | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(N(C)OC)=O | C14H26N2O4
